US04992576
5-(3-Carboxyphenoxy)-2-(decyloxy)benzenepropanoic acid
A solution of 510 mg of 5-(3-ethoxycarbonylphenoxy)-2-(decyloxy)benzenepropanoic acid in 20 ml of ethanol was treated with an excess of potassium hydroxide in a small amount of water. After stirring for 18 hours, the solution was concentrated in vacuo. Diethyl ether and water added, the layers were separated, and the aqueous layer was acidified with 1N hydrochloric acid. The aqueous layer was extracted with diethyl ether, and this extract was dried over sodium sulfate and concentrated in vacuo. Two crystallizations from ethyl acetate/hexane provided 200 mg of the desired title product, m.p. 102°-104° C.

reactant | 5-(3-ethoxycarbonylphenoxy)-2-(decyloxy)benzenepropanoic acid | 510 mg | C(C)OC(=O)C=1C=C(OC=2C=CC(=C(C2)CCC(=O)O)OCCCCCCCCCC)C=CC1 | C28H38O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(3-Carboxyphenoxy)-2-(decyloxy)benzenepropanoic acid | 200 mg | C(=O)(O)C=1C=C(OC=2C=CC(=C(C2)CCC(=O)O)OCCCCCCCCCC)C=CC1 | C26H34O6
